US08383644B2
Bromination. To a solution of 1.65 g of 2,5-dimethyl-4-nitro-pyridine 1-oxide in 50 mL dry EtOAc was added 11.1 mL PBr3 at rt. The mixture was heated to reflux over 0.5 h. Reflux continued for 3 h, then cooled to rt and poured into ice and EtOAc. The resulting mixture was brought to pH 10 with addition of NaOH pellets and layers were separated. An additional EtOAc extraction was combined with the first and the organic layers were washed with brine, dried with Na2SO4 and concentrated under reduced pressure. The residue was purified by column chromatography (hexanes-EtOAc) to provide 4-bromo-2,5-dimethyl-pyridine (248 mg). LCMS (m/z) 186.

reactant | 2,5-dimethyl-4-nitro-pyridine 1-oxide | 1.65 g | CC1=[N+](C=C(C(=C1)[N+](=O)[O-])C)[O-] | C7H8N2O3
reactant | PBr3 | 11.1 mL | P(Br)(Br)Br | Br3P
reactant | NaOH | [OH-].[Na+]
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 4-bromo-2,5-dimethyl-pyridine | 248 mg | BrC1=CC(=NC=C1C)C | C7H8BrN
